US06514911B1
Preparation of 2,4,4-Tris(trifluoromethyl)-6-{3-(trifluoromethyl)phenyl}-4H-1,3,5-oxadiazine
3-Trifluoromethylbenzonitrile (5.8 g, 3.39 mmol) and 2,2,2-trifluoro-N-{2,2,2-trifluoro-1-(trifluoromethyl) ethylidene}acetamide (1.8 g, 6.90 mmol) were dissolved in dichloromethane (3 mL) and stirred in a sealed vial at room temperature for three days. The solvent and excess reagent were distilled off to give a colorless oil that was chromatographed on silica gel using 5 percent ethyl acetate/hexanes as eluent. The desired product was present as an oil (0.92 g, 63 percent yield) in the first eluted fraction. EIMS (m/z): 432 (M+), 413 (M−F), 363 (M-CF3).

reactant | 3-Trifluoromethylbenzonitrile | 3.39 mmol, 5.8 g | FC(C=1C=C(C#N)C=CC1)(F)F | C8H4F3N
reactant | 2,2,2-trifluoro-N-{2,2,2-trifluoro-1-(trifluoromethyl) ethylidene}acetamide | 6.90 mmol, 1.8 g | FC(C(=O)N=C(C(F)(F)F)C(F)(F)F)(F)F | C5F9NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2,4,4-Tris(trifluoromethyl)-6-{3-(trifluoromethyl)phenyl}-4H-1,3,5-oxadiazine | 0.92 g, 63 percent yield | FC(C=1OC(=NC(N1)(C(F)(F)F)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)(F)F | C13H4F12N2O
